US04072583
Procedure B -- 2-t-Butylnitrobenzene (30.0 grams, 0.17 mole) in 100 milliliters of ether was added to a suspension of 8.22 grams (0.22 mole) of lithium aluminum hydride in 700 milliliters of ether at a temperature of 5°-10° C. The mixture was allowed to come to ambient temperature and stirred for an additional 0.5-hour period. Hydrolysis was accomplished by the successive addition of 15 milliliters of water, 15 milliliters of 20 percent aqueous sodium hydroxide, and 30 milliliters of water. After mixing for 2 hours, the inorganic salts were removed by filtration and the ether evaporated. The residue was applied to an activated neutral alumina column (200 grams, 80-200 mesh) and eluted with hexane at a flow rate of 10 drops per minute. The initial fractions (about 700 milliliters) were discarded and the product, a bright red band on the column, was collected. Evaporation of the hexane followed by crystallization of the residue from ethanol gave 4.6 grams (18.7 percent) of 2,2'-di-t-butylazobenzene melting point, 90°-91° C.

reactant | 2-t-Butylnitrobenzene | 0.17 mole, 30.0 grams | C(C)(C)(C)C1=C(C=CC=C1)[N+](=O)[O-] | C10H13NO2
reactant | lithium aluminum hydride | 0.22 mole, 8.22 grams | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 15 milliliters | O | H2O
reactant | sodium hydroxide | 15 milliliters | [OH-].[Na+]
reactant | water | 30 milliliters | O | H2O
solvent | ether | 100 milliliters | CCOCC | C4H10O
solvent | ether | 700 milliliters | CCOCC | C4H10O
product | 2,2'-di-t-butylazobenzene | 4.6 grams, 18.7 percent | C(C)(C)(C)C1=C(C=CC=C1)N=NC1=C(C=CC=C1)C(C)(C)C | C20H26N2
